Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G1 at 22w6d GA with pelvic pain since this morning. 
Describes two types of pain - one is like her period, and the 
other is an exacerbation of her hip flexor tendonitis pain. She 
reports that the hip flexor pain in chronic, and she previously 
took narcotics and had ___ for this. However, she has not been
seen for this for approximately ___ years. 

She has also been experiencing other cramping pain for the past 
___, which feels like a period. This pain occurs at night, 
but normally resolves after taking APAP. The pain did not 
resolve with APAP this morning, however, and so she presenting 
to the ED for evaluation.

She denies VB, LOF. +AFM. Had 'dry heaves' this AM, but no 
current N/V. No fevers/chills. Was given 1mg dilaudid in the ED 
with moderate effect.

 
Past Medical History:
PNC: ___ ___ by ultrasound
Labs: Rh+/RI/HbsAg neg/RPRNR/HIV neg
Genetics screening: declined
- U/S on ___ for fetal EF and ?VSD showed an anterior placenta
previa, expected to resolve

PObHx: G1
PGynHx: No history of LEEP or other cervical procedure
PMHx: asthma, ? PCOS with neg w/u per pt, anxiety/OCD
PSHx: shoulder surgery

 
Social History:
Denies ___, works as ___

 
Physical Exam:
Admission Exam
PE: 
97.6, HR86, RR18, 100%
General: NAD. Does not appear intoxicated or to be having 
regular
painful CTX.
Abdomen: abdomen tender throughout, no rebound or guarding, RLQ
tenderness > LLQ and rest of abdomen
SSE: Normal external anatomy, cervical os 0.5cm dilated/long, no
blood in vaginal vault.
SVE: deferred
TOCO: flat

Disharge Exam
AVSS
NAD, AOx3
Abd: soft, mildly tender, no rebound/guarding
Ext: wwp
 
Pertinent Results:
___ 11:45AM   GLUCOSE-103* UREA N-9 CREAT-0.5 SODIUM-135 
POTASSIUM-3.4 CHLORIDE-103 TOTAL CO2-20* ANION GAP-15
___ 11:45AM   estGFR-Using this
___ 11:45AM   WBC-9.2 RBC-4.04* HGB-12.2 HCT-34.3* MCV-85 
MCH-30.1 MCHC-35.6* RDW-13.0
___ 11:45AM   NEUTS-85.3* LYMPHS-11.3* MONOS-2.6 EOS-0.6 
BASOS-0.1
___ 11:45AM   PLT COUNT-172
___ 11:35AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 11:35AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-150 BILIRUBIN-NEG UROBILNGN-NEG PH-8.5* 
LEUK-NEG
___ 11:35AM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 11:35AM URINE  AMORPH-OCC
___ 11:35AM URINE  MUCOUS-RARE
 
Brief Hospital Course:
___ G1 h/o hip flexor tendonitis and abdominal pain who was 
admitted to antepartum ___ for monitoring. Her repeat WBC 
the next day normal. She was given tylenol around the clock and 
oxycodone. Her pain was thought to be likely MSK related. On 
___ patient endorsed that dying was better than pain but 
repeatedly denied SI and initially had a sitter. Ortho saw her 
on ___ and thought that her differential included  flexor 
tendinitis, femoralacetbular impingement, pelvic musculosketal 
strain or non-orthopaedic etiology including hernia. Given that 
this was a chronic issue, ortho recommended outpatient f/u which 
was scheduled on ___. Patient in stable condition upon 
discharge with follow up scheduled.

 
Medications on Admission:
albuterol, qvar, fluoxetine, fluticasone propionate, fluticasone 
salmetrol, montelukast, zofran prn, pnv
 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
2. Fluoxetine 20 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU BID 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. ___ 10 mg PO DAILY 
6. Prenatal Vitamins 1 TAB PO DAILY 
7. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q6hrs Disp #*10 Tablet 
Refills:*0
8. Diazepam 5 mg PO Q12H:PRN pain/anxiety Duration: 1 Dose 
RX *diazepam 2 mg ___ tablets by mouth every 12 hrs Disp #*30 
Tablet Refills:*0
9. Diazepam 5 mg PO ONCE:PRN pain, insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 23wks
abdominal pain
left hip flexor pain

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the antepartum service for observation due 
to abdominal pain and hip flexor pain. Your clinical 
presentation was most consistent with musculoskeletal pain. You 
were given medications to control your pain. You had no 
obstetric concerns during this admission.
 
Followup Instructions:
___